US08304446B2
5-Chloro-N-[1-[(4-{[2-(dimethylamino)ethyl]oxy}phenyl)methyl]-4-(methyloxy)-1H-indazol-3-yl]-2-thiophenesulfonamide
A solution of 5-chloro-N-[(5-chloro-2-thienyl)sulfonyl]-N-[1-[(4-{[2-(dimethylamino)ethyl]oxy}phenyl)methyl]-4-(methyloxy)-1H-indazol-3-yl]-2-thiophenesulfonamide (for a preparation see Intermediate 18) (91 mg, 0.13 mmol) in MeOH (5 mL) was treated with a 2M aq. NaOH solution (1 mL) and the mixture was heated to 70° C. for 2 h, and then allowed to stand at RT over the weekend. The solvents evaporated by this time and the white solid residue was diluted with water and 2M HCl solution (1 mL) and extracted with ethyl acetate. The organic solution was washed with brine, dried (MgSO4) and evaporated to dryness (72 mg). The residue was dissolved in 1:1 MeOH:DMSO (1 mL) and purified by MDAP on Xbridge column using acetonitrile-water with an ammonium carbonate modifier. The solvent was evaporated in vacuo to give the title compound (43 mg, 64%) as a colourless gum. LCMS (System C) RT=2.20 min, ES+ve m/z 521/523 (M+H)+.

reactant | 5-chloro-N-[(5-chloro-2-thienyl)sulfonyl]-N-[1-[(4-{[2-(dimethylamino)ethyl]oxy}phenyl)methyl]-4-(methyloxy)-1H-indazol-3-yl]-2-thiophenesulfonamide | ClC1=CC=C(S1)S(=O)(=O)N(C1=NN(C2=CC=CC(=C12)OC)CC1=CC=C(C=C1)OCCN(C)C)S(=O)(=O)C=1SC(=CC1)Cl | C27H26Cl2N4O6S4
reactant | NaOH | 2M, 1 mL | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 5-Chloro-N-[1-[(4-{[2-(dimethylamino)ethyl]oxy}phenyl)methyl]-4-(methyloxy)-1H-indazol-3-yl]-2-thiophenesulfonamide | 43 mg, 64% | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)OC)CC1=CC=C(C=C1)OCCN(C)C | C23H25ClN4O4S2
